US07094625B2
A THF solution of 1 g (7.3 mmol) of anthranilic acid was dropped into a mixed solution under reflux of 0.77 ml (8.0 mmol) of 1,3-cyclohexadiene, 1.1 ml of isoamyl nitrite and 50 ml of tetrahydrofuran. Then, the resultant solution was heated and refluxed for 2 hours to remove THF, extracted with chloroform, washed with distilled water and saturated saline, dried with anhydrous sodium sulfate and purified with silica gel column-chromatography-(chloroform) to obtain 1,4-dihydro-1,4-ethanonaphthalene (0.89 g, 5.7 mmol, yield: 78%).

reactant | anthranilic acid | 7.3 mmol, 1 g | C(C=1C(N)=CC=CC1)(=O)O | C7H7NO2
reactant | 1,3-cyclohexadiene | 8.0 mmol, 0.77 ml | C1=CC=CCC1 | C6H8
reactant | isoamyl nitrite | 1.1 ml | N(=O)OCCC(C)C | C5H11NO2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | THF | C1CCOC1 | C4H8O
product | 1,4-dihydro-1,4-ethanonaphthalene | 5.7 mmol, 0.89 g, yield: 78% | C12C=CC(C3=CC=CC=C13)CC2 | C12H12
